US07632838B2
To a 50 mL flask containing tert-butyl 4-[4-({(2R)-4-[4-fluoro-2-(trifluoromethyl)phenyl]-2-methylpiperazin-1-yl}sulfonyl)-1-naphthyl]piperazine-1-carboxylate (185.2 mg) and 5 mL of CH2Cl2 was added 3 mL of TFA. This was stirred at room temperature for 4.5 hr. Reaction was complete as determined by TLC. Solvent and TFA was removed under vacuum. The resulting residue was dissolved in CH2Cl2, washed with sat. K2CO3 until pH=8, then washed with saturated brine, dried over Na2SO4 and concentrated down to yield (2R)-4-[4-fluoro-2-(trifluoromethyl)phenyl]-2-methyl-1-[(4-piperazin-1-yl-1-naphthyl)sulfonyl]piperazine as a yellow solid (136.3 mg, 87.3% yield). HRMS: calcd for C26H28F4N4O2S+H+, 537.19418. found (ESI-FTMS, [M+H]1+), 537.1968. HPLC Method 1: room temperature, 5.003 min, 94.44%, HPLC Method 2: room temperature, 6.254 min, 93.74%.

reactant | tert-butyl 4-[4-({(2R)-4-[4-fluoro-2-(trifluoromethyl)phenyl]-2-methylpiperazin-1-yl}sulfonyl)-1-naphthyl]piperazine-1-carboxylate | 185.2 mg | FC1=CC(=C(C=C1)N1C[C@H](N(CC1)S(=O)(=O)C1=CC=C(C2=CC=CC=C12)N1CCN(CC1)C(=O)OC(C)(C)C)C)C(F)(F)F | C31H36F4N4O4S
reactant | TFA | 3 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | (2R)-4-[4-fluoro-2-(trifluoromethyl)phenyl]-2-methyl-1-[(4-piperazin-1-yl-1-naphthyl)sulfonyl]piperazine | 136.3 mg, 87.3% yield | FC1=CC(=C(C=C1)N1C[C@H](N(CC1)S(=O)(=O)C1=CC=C(C2=CC=CC=C12)N1CCNCC1)C)C(F)(F)F | C26H28F4N4O2S
